US20010044435A1
4-[(3-chloro-4-fluorophenyl)amino]-6-({[(diethoxyphosphoryl)methyl]carbonyl}amino)-7-cyclopropylmethoxyquinazoline
2.77 ml of triethylamine, 3.43 g of diethoxyphosphorylacetic acid, and 5.62 g of benzotriazol-1-yl-N-tetramethyluronium tetrafluoroborate are added successively to 5.00 g of 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxyquinazoline in 25 ml of N,N-dimethylformamide. The reaction mixture is stirred for one hour at ambient temperature; 250 ml of water is then added and the mixture is extracted with 250 ml of ethyl acetate/methanol (10:1). The organic phase is washed with water and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated by evaporation. The residue in the flask is crystallized by stirring with diethylether.

reactant | triethylamine | 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | diethoxyphosphorylacetic acid | 3.43 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxyquinazoline | 5.00 g | NC=1C=C2C(=NC=NC2=CC1OCC1CC1)NC1=CC(=C(C=C1)F)Cl | C18H16ClFN4O
reactant | water | 250 ml | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-({[(diethoxyphosphoryl)methyl]carbonyl}amino)-7-cyclopropylmethoxyquinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(=O)CP(=O)(OCC)OCC)OCC1CC1 | C24H27ClFN4O5P
